US07094801B2
4-[3E-(5-Benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-N-isobutyryl-benzenesulfonamide
A solution of 4-[3E-(5-benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzenesulfonamide (Ex-80, 0.15 g, 0.31 mmol) in tetrahydrofuran (3 mL) was cooled to −78° C. and a solution of lithium bis(trimethylsilyl)amide (1.0 M in tetrahydrofuran, 0.63 mL, 0.63 mmol) was added dropwise. The solution was allowed to stir at this temperature for 1 hour and warm up to 0° C. Isobutyric acid anhydride (0.31 mL, 1.88 mmol) was added at this temperature. The solution was allowed to stir at 0° C. for 10 min and ambient temperature for 2 hours. The reaction then was quenched with water. The aqueous solution was extracted with ethyl acetate. The combined solution of ethyl acetate was washed with brine, dried over sodium sulfate and concentrated. The residual material was stirred in ethanol for 3 hours, filtered and dried in vacuo to give the title compound as a yellow solid (0.15 g, 87%), mp>240° C. (dec.). 1H-NMR (CDCl3) δ 8.21 (d, J=8.6 Hz, 2H), 8.13 (d, J=8.7 Hz, 2H), 8.09 (s, 1H), 8.02 (bs, 1H), 7.94 (s, 1H), 7.85–7.78 (m, 2H), 7.68 (s, 1H), 7.55 (d, J=16.9 Hz, 1H), 7.38–7.30 (m, 2H), 6.58 (s, 1H), 4.04 (s, 3H), 4.01 (s, 3H), 2.47–2.38 (m, 1H), 1.14 (d, J=7.1 Hz, 6H). MS m/z=549 (M+, 100%).

reactant | 4-[3E-(5-benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzenesulfonamide | 0.31 mmol, 0.15 g | S1C2=C(C=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC)C=CC=C2 | C25H21NO5S2
reactant | lithium bis(trimethylsilyl)amide | 0.63 mmol, 1.0 M, 0.63 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Isobutyric acid anhydride | 1.88 mmol, 0.31 mL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-[3E-(5-Benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-N-isobutyryl-benzenesulfonamide | 0.15 g, 87% | S1C2=C(C=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NC(C(C)C)=O)OC)OC)C=CC=C2 | C29H27NO6S2
